US06320068B1
Preparation 2 Methyl 2-trifluoromethanesulfonyloxy-1-naphthoate
Trifluoromethanesulfonic anhydride (492 g, 1.74 mol, 1.1 eq) in dichloromethane (0.5 L) was added over 1.5 hours to a suspension of methyl 2-hydroxy-1-naphthoate (319 g, 1.58 mol) and pyridine (330 ml, 4.08 mol, 2.6 eq) in dichloromethane (1.7 L) maintained at an internal temperature between −70 and −50° C., under nitrogen. Once the addition was complete, the mixture was allowed to warm to ambient temperature and stirred for 16 hours, after which time all solids had dissolved. Methyl tert-butyl ether (MTBE, 2.5 L) was added, causing precipitation. The solids were removed by filtration and washed with MTBE (0.5 L). The MTBE solutions were combined and washed with 2 N HCl(aq) (0.3 L then 0.2 L), water (2×2.5 L) and brine (2 L). The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was dissolved in toluene (2.5 L) and washed with 1 N NaOH (aq) (0.5 L), water (2.5 L) and brine (1 L). The toluene solution was dried (MgSO4), filtered and concentrated under reduced pressure. Initially a slightly brown oil, the product crystallised on standing. Yield 438.5 g, 83%

reactant | Trifluoromethanesulfonic anhydride | 1.74 mol, 492 g, 1.1 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 2-hydroxy-1-naphthoate | 1.58 mol, 319 g | OC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C12H10O3
reactant | pyridine | 4.08 mol, 330 ml, 2.6 eq | N1=CC=CC=C1 | C5H5N
reactant | Methyl tert-butyl ether | 2.5 L | C(C)(C)(C)OC | C5H12O
solvent | dichloromethane | 0.5 L | ClCCl | CH2Cl2
solvent | dichloromethane | 1.7 L | ClCCl | CH2Cl2
product | Methyl 2-trifluoromethanesulfonyloxy-1-naphthoate | FC(S(=O)(=O)OC1=C(C2=CC=CC=C2C=C1)C(=O)OC)(F)F | C13H9F3O5S
